US05567717
Following a procedure similar to that described in Example 3c, 5-(2-methyl-1,3-dioxolan-2-yl)-2-[3-(2,6-dimethyl-4-cyanophenoxy)propyl]furan; (1.05 g; 3.08 mmol), 48 mL (0.06M) of dimethyldioxirane in acetone, and 10 mL of acetone were reacted. The resulting product was dissolved in methanol and reacted with 85% hydrazine hydrate (0.15 mL; 4.49 mmol) then purified by chromatography on silica gel with 65% ethyl acetate/hexane to afford 0.511 g (47%) of 6-(2-methyl-1,3-dioxolan-2-yl)-3-[3-(2,6-dimethyl-4-cyanophenoxy)propyl]-pyridazine.

reactant | 5-(2-methyl-1,3-dioxolan-2-yl)-2-[3-(2,6-dimethyl-4-cyanophenoxy)propyl]furan | CC1(OCCO1)C1=CC=C(O1)CCCOC1=C(C=C(C=C1C)C#N)C | C20H23NO4
reactant | dimethyldioxirane | 0.06M, 48 mL | CC1(OO1)C | C3H6O2
reactant | hydrazine hydrate | 4.49 mmol, 0.15 mL | O.NN
solvent | acetone | CC(=O)C | C3H6O
solvent | methanol | CO | CH4O
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 6-(2-methyl-1,3-dioxolan-2-yl)-3-[3-(2,6-dimethyl-4-cyanophenoxy)propyl]-pyridazine | 0.511 g, 47% | CC1(OCCO1)C1=CC=C(N=N1)CCCOC1=C(C=C(C=C1C)C#N)C | C20H23N3O3
